US06002002
N-benzyl-N'-(2-hydroxy-3-piperidino-propoxy)-urea
O-(2-hydroxy-3-piperidino-propyl)-hydroxylamine (2,53 g, 0,0145 mol) was dissolved in 40 ml abs. chloroform and 1,8 ml (0,0145 mol) benzyl isocyanate was added thereto while stirring. The mixture was stirred for 2 hours, the solution was evaporated and the residue was crystallized from ethanol-ether mixture. Yield: 2,1 g (47%). Mp.: 100-101° C.

reactant | O-(2-hydroxy-3-piperidino-propyl)-hydroxylamine | 0,0145 mol, 2,53 g | OC(CON)CN1CCCCC1 | C8H18N2O2
reactant | benzyl isocyanate | 0,0145 mol, 1,8 ml | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-benzyl-N'-(2-hydroxy-3-piperidino-propoxy)-urea | C(C1=CC=CC=C1)NC(=O)NOCC(CN1CCCCC1)O | C16H25N3O3
